US06972288B1
4-[(3-Bromophenyl)amino]-6-[(4-{N-[(tert-butyloxycarbonyl)methyl]-N-[2-(acetylsulphanyl)ethyl]amino)-1-oxo-2-buten-1-yl)-amino]-7-methoxy-quinazoline
34 mg of potassium thioacetate are added to 150 mg of 4-[(3-bromophenyl)amino]-6-[(4-(N-[(tert-butyloxycarbonyl)methyl]-N-[2-(methylsulphonyloxy)ethyl]amino}-1-oxo-2-buten-1-yl)amino]-7-methoxy-quinazoline in 1 ml of dimethylformamide at ambient temperature. The reaction mixture is stirred overnight at ambient temperature and then combined with water for working up. The aqueous phase is separated off and extracted with ethyl acetate, the combined organic phases are dried over magnesium sulphate and freed from solvent in the rotary evaporator. Yield: 20 mg (14% of theory), Rf value: 0.62 (silica gel, ethyl acetate/methanol=15:1) Mass spectrum (EI): m/z=643, 645 [M]+

reactant | potassium thioacetate | 34 mg | C(C)(=S)[O-].[K+]
reactant | 4-[(3-bromophenyl)amino]-6-[(4-(N-[(tert-butyloxycarbonyl)methyl]-N-[2-(methylsulphonyloxy)ethyl]amino}-1-oxo-2-buten-1-yl)amino]-7-methoxy-quinazoline | 150 mg | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN(CCOS(=O)(=O)C)CC(=O)OC(C)(C)C)=O)OC | C28H34BrN5O7S
reactant | water | O | H2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-[(3-Bromophenyl)amino]-6-[(4-{N-[(tert-butyloxycarbonyl)methyl]-N-[2-(acetylsulphanyl)ethyl]amino)-1-oxo-2-buten-1-yl)-amino]-7-methoxy-quinazoline | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN(CCSC(C)=O)CC(=O)OC(C)(C)C)=O)OC | C29H34BrN5O5S
